### PR TITLE
Cleaned PartD.v

### PR DESCRIPTION
**Pull request by tpannila**
Cleaned long lines in PartD.v and added Contents comment.

### CODE REVIEW

**Comment by DanGrayson** [comment]
g

File: UniMath/Foundations/Basics/PartD.v [hunk 1]
```diff
@@ -1,199 +1,339 @@
...
-       assert (paths (tpair (fun s0 : Π x0 : X, P x0 => Π x0 : X, PP x0 (s0 x0)) t x) (tpair (fun s0 : Π x0 : X, P x0 => Π x0 : X, PP x0 (s0 x0)) et x)).
-       reflexivity.
-
-assert (ee: paths (tpair (fun s0 : Π x0 : X, P x0 => Π x0 : X, PP x0 (s0 x0)) et x) (tpair (fun s0 : Π x0 : X, P x0 => Π x0 : X, PP x0 (s0 x0)) et (fun x0 : X => x x0))).
-apply idpath. induction ee. apply pathsinv0. assumption. Defined.
+Definition totaltoforalltototal {X : UU} (P : X -> UU) (PP : Π x : X, P x -> UU)
+           (ss : total2 (fun s0 : Π x : X, P x => Π x : X, PP x (s0 x))) :
+  paths (foralltototal _ _ (totaltoforall  _ _ ss)) ss.
+Proof.
+  intros. induction ss as [ t x ].
```
Comment (benediktahrens) [inline UniMath/Foundations/Basics/PartD.v]: This whole proof can be done by `intros; induction ss; apply idpath.`.

File: UniMath/Foundations/Basics/PartD.v [hunk 2]
```diff
@@ -459,55 +754,90 @@ Proof . intros .  apply impred . intro . apply ( isapropifnegtrue  is ) . Define
...
-         | O => iscontr X1
-         | S m => Π x0 x'0 : X1, isofhlevel m (paths x0 x'0)
-         end) n (paths x x')))). intro.  apply (impred ( S O ) _  (X0 x)). apply (impred (S O) _ is1). Defined.
+Theorem isapropisofhlevel (n : nat) (X : UU) : isaprop (isofhlevel n X).
+Proof.
+  intro.  unfold isofhlevel. induction n as [ | n IHn ].
+  - apply isapropiscontr.
+  - intro X.
+    assert (X0 : Π (x x' : X),
+                 isaprop ((fix isofhlevel (n0 : nat) (X0 : UU) {struct n0} : UU
```
Comment (benediktahrens) [inline UniMath/Foundations/Basics/PartD.v]: Is there a way to do this proof without using `fix` ? `fix` might be forbidden, I am not sure.

File: UniMath/Foundations/Basics/PartD.v [hunk 3]
```diff
@@ -548,128 +882,185 @@ Defined.
...
+Theorem weqinvweq (X Y : UU) : weq (weq X Y) (weq Y X).
+Proof.
+  intros.
+  set (f := fun w : weq X Y => invweq w).
+  set (g := fun w : weq Y X => invweq w).
+  split with f.
+  assert (egf : Π w : _, paths (g (f w)) w).
+  {
+    intro. apply (invmaponpathsincl _ (isinclpr1weq _ _)). apply funextfun.
+    intro x. unfold f. unfold g. unfold invweq. simpl. unfold invmap. simpl.
```
Comment (benediktahrens) [inline UniMath/Foundations/Basics/PartD.v]: Those `unfold`s could be removed, as well as the `simpl.`.

**Comment by benediktahrens** [comment]
Awesome!
